US08013165B2
To a stirred solution of benzaldehyde (3.44 mL, 33.92 mmol) in THF (35 mL) is added a THF solution of lithium bis(trimethylsilyl)amide (37.3 mL, 37.32 mmol) at 0° C. The mixture is stirred at 0° C. for 2 hours. To the resulting solution is added (2-(pyridin-2-yl)propan-2-yl)potassium (6.48 g, 40.71 mmol) at −20 to −15° C. drop wise prepared in the following manner: in a dried, nitrogen-flushed flask was placed potassium 2-methylpropan-2-olate (61.9 mL, 61.89 mmol) (1.0 M in THF) and diisopropylamine (8.75 mL, 61.89 mmol). The mixture is cooled to −20° C. and BuLi (30.9 mL, 49.51 mmol) is slowly added to give a yellow solution. The reaction mixture is then cooled to −50° C. and 2-isopropylpyridine (5 g, 41.26 mmol) is added and the mixture stirred 30 minutes. The mixture is then stirred at −20° C. for 30 minutes, and sat. NH4Cl is added. The mixture is extracted with EA (3×). Combined EA are washed with sat. NaCl, dried over Na2SO4, filtered and concentrated by ISCO column (24 0 g), eluting with 0-70% EA/Hex, then 5% MeOH/DCM to give 2-methyl-1-phenyl-2-(pyridin-2-yl)propan-1-amine (6.07 g, 79%) as an yellow oil. This oil is dissolved in isopropyl acetate (50 mL) and a solution of 5-6 N HCl in isopropyl alcohol (4.0 mL) is added. The mixture is concentrated, dissolved in methanol, concentrated and triturated in ether to yield 1 (4.0 g, 60%) as a white solid. M.p.=188° C. 1H NMR (300 MHz, CD3OD): δ 1.59 (s, 3H), 1.76 (s, 3H), 5.09 (s, 1H), 7.25-7.28 (m, 2H), 7.38-7.40 (m, 3H), 8.00 (t, J=6.6 Hz, 1H), 8.11 (d, J=6.9 Hz, 1H), 8.56 (t, J=7.8 Hz, 1H), 8.77 (d, J=5.7 Hz, 1H); 13C NMR (75 MHz, CD3OD): δ 22.2, 22.6, 43.7, 62.4, 126.2, 126.4, 128.1, 128.9, 129.6, 133.3, 142.9, 146.9. MS: m/z 227.

reactant | benzaldehyde | 33.92 mmol, 3.44 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | lithium bis(trimethylsilyl)amide | 37.32 mmol, 37.3 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | (2-(pyridin-2-yl)propan-2-yl)potassium | 40.71 mmol, 6.48 g | N1=C(C=CC=C1)C(C)(C)[K]
reactant | potassium 2-methylpropan-2-olate | 61.89 mmol, 1.0 M, 61.9 mL | CC(C)(C)[O-].[K+]
reactant | diisopropylamine | 61.89 mmol, 8.75 mL | C(C)(C)NC(C)C | C6H15N
reactant | BuLi | 49.51 mmol, 30.9 mL | [Li]CCCC
reactant | 2-isopropylpyridine | 41.26 mmol, 5 g | C(C)(C)C1=NC=CC=C1 | C8H11N
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | 2-methyl-1-phenyl-2-(pyridin-2-yl)propan-1-amine | 6.07 g, 79% | CC(C(N)C1=CC=CC=C1)(C)C1=NC=CC=C1 | C15H18N2
